US05256675
To a solution of 2-amino-5-(4-aminophenylthio)thiazole (4.0 g) in a mixture of chloroform (140 ml) and N,N-dimethylformamide (20 ml) was dropwise added the solution of 3-chloroperbenzoic acid (4.65 g) in chloroform (50 ml) at 5° C. with stirring. The mixture was stirred at 5° C. for 4 hours. The precipitates were collected by filtration, washed with 10% aqueous sodium bicarbonate and water. The solid was dried in vacuo to give 2-amino-5-(4-aminophenylsulfinyl)thiazole (3.75 g, yield: 87.5%). mp: 173°-175° C.

reactant | 2-amino-5-(4-aminophenylthio)thiazole | 4.0 g | NC=1SC(=CN1)SC1=CC=C(C=C1)N | C9H9N3S2
reactant | 3-chloroperbenzoic acid | 4.65 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-(4-aminophenylsulfinyl)thiazole | 3.75 g, yield: 87.5% | NC=1SC(=CN1)S(=O)C1=CC=C(C=C1)N | C9H9N3OS2
